US04105759
Preparation of bisoleylamine monofluorophosphate.
14 gms (0.14 mole) of monofluorophosphoric acid is slowly added to 58.66 gm (0.22 moles) of oleylamine in 300 ml toluene immersed in an ice bath to maintain the temperature at about 0° C since the reaction in exothermic, while continuously stirring for about 20 minutes to 2 hours. A solid reaction product settles out of solution and is filtered, and washed while on the filter with aliquot portions of the toluene solvent. The solid reaction product is removed from the filter and is vacuum dried at a temperature of 27°-45° C for 12 hours to 2 days to remove the toluene solvent. Transmission infrared spectra of the oleylamine monofluorophosphate exhibit peaks at 720 cm-1 and 790 cm-1 indicative of the absorptions of the PO3F= structure; peaks from 1300-1700 cm-1 and 2300-3000 cm-1 which are typical of RNH3+ absorptions; and the P-O peak (110 cm-1) is located at an energy intermediate between that of hydroxyapatite (1070 cm-1) and Na2PO3F (1175 cm-1).

reactant | monofluorophosphoric acid | 0.14 mole, 14 gms | OP(=O)(O)F | FH2O3P
reactant | oleylamine | 0.22 moles, 58.66 gm | C(CCCCCCC\C=C/CCCCCCCC)N | C18H37N
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | bisoleylamine monofluorophosphate | P(=O)(O)(O)F.C(CCCCCCC\C=C/CCCCCCCC)NCCCCCCCC\C=C/CCCCCCCC | InChI=1S/C36H71N.FH2O3P/c1-3-5-7-9-11-13-15-17-19-21-23-25-27-29-31-33-35-37-36-34-32-30-28-26-24-22-20-18-16-14-12-10-8-6-4-2;1-5(2,3)4/h17-20,37H,3-16,21-36H2,1-2H3;(H2,2,3,4)/b19-17-,20-18-;
